US09284314B2
N,N′-Dicyclohexyl carbodiimide (DCC; 8.2 g, 40 mmol) was added to a solution of pyroglutamic acid (5.16 g, 40 mmol) in dimethylformamide (DMF; 60 ml). The mixture was stirred at room temperature for 2 h and a precipitate formed. Benzylamine (4.8 ml, 44 mmol) was added and the mixture was stirred for 2 h. t-butyl dicarbonate (Boc2O; 9.6 g, 44 mmol), triethylamine (TEA; 6.3 ml, 44 mmol) and 4-dimethylaminopyridine (DMAP; 488 mg, 4 mmol) were added and the mixture was stirred at room temperature for 16 h. The DMF was removed under vacuum and the residue was taken up with water (20 ml) and extracted with dichloromethane (DCM; 3×20 ml). The organic layers were concentrated and the crude product was purified via silica gel chromatography to afford (S)-2-benzylcarbamoyl-5-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (2.23 g, 7.0 mmol, 17.5%).

reactant | N,N′-Dicyclohexyl carbodiimide | 40 mmol, 8.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyroglutamic acid | 40 mmol, 5.16 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | Benzylamine | 44 mmol, 4.8 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | t-butyl dicarbonate | 44 mmol, 9.6 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | triethylamine | 44 mmol, 6.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 4 mmol, 488 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-2-benzylcarbamoyl-5-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.0 mmol, 2.23 g, 17.5% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1=O)C(NCC1=CC=CC=C1)=O | C17H22N2O4
